### PR TITLE
[Merged by Bors] - feat: Submodule.smul_one_eq_span

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Co-authored-by: Aaron Hill <aa1ronham@gmail.com>
Co-authored-by: Austin Letson <waustinletson@gmail.com>
Co-authored-by: Matej Penciak <matej.penciak@gmail.com>

---

From FLT

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
Is this really the right place for this lemma? How about, say, `Mathlib.RingTheory.Ideal.Operations`?

File: Mathlib/Algebra/Algebra/Operations.lean [hunk 1]
```diff
@@ -362,6 +362,9 @@ theorem algebraMap_mem (r : R) : algebraMap R A r ∈ (1 : Submodule R A) := by
 theorem mem_one {x : A} : x ∈ (1 : Submodule R A) ↔ ∃ y, algebraMap R A y = x := by
   simp [one_eq_range]
 
+theorem smul_one_eq_span (x : R) : x • (1 : Submodule R R) = span R {x} := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Operations.lean]:
```suggestion
theorem smul_one_eq_span (x : R) : x • (1 : Ideal R) = span R {x} := by
```

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Algebra/Operations.lean]: I don't think this works for the slightly generalized statement I just pushed

**Comment by ocfnash** [comment]
Thanks!

bors merge

**Comment by eric-wieser** [comment]
bors merge
